US09428528B2
Step 3 Preparation of Benzyl-[1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethyl]-amine
To a stirred solution of Benzyl-[1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-eth-(E)-ylidene]-amine (0.45 g, 1.31 mmol) in methanol (20 mL) is added sodium triacetoxy borohydride (0.55 g, 2.62 mmol) at 0° C. then stir at room temperature for 3 hours. Reaction mixture is diluted with water and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by column chromatography eluting in 10% ethyl acetate in hexane to afford the title compound (0.15 g). 1H NMR (400 MHz, DMSO-d6) δ: 3.57-3.61 (m, 1H), 3.64-3.73 (m, 2H), 4.50 (m, 1H), 7.22-7.25 (m, 1H), 7.28-7.29 (m, 4H), 7.73 (d, J=8.2 Hz, 1H), 7.91-7.93 (dd, J1=8.2 Hz, J2=2.24 Hz, 1H), 8.48 (d, J=2.08 Hz, 1H). LC-MS (m/z): [M+H]=347.0.

reactant | Benzyl-[1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-eth-(E)-ylidene]-amine | 1.31 mmol, 0.45 g | C(C1=CC=CC=C1)/N=C(/C(F)(F)F)\C1=NC=C(C=C1)Br | C14H10BrF3N2
reactant | sodium triacetoxy borohydride | 2.62 mmol, 0.55 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | O | H2O
product | Benzyl-[1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethyl]-amine | 0.15 g | C(C1=CC=CC=C1)NC(C(F)(F)F)C1=NC=C(C=C1)Br | C14H12BrF3N2
